US09359339B2
Step B. 4-{(1S)-1-[(7-Bromo-5-methyl-1-benzothien-3-yl)(4-chlorophenyl)methyl]butyl}-N-1H-tetrazol-5-ylbenzamide
A mixture of 4-{(1S)-1-[(7-bromo-5-methyl-1-benzothien-3-yl)(4-chlorophenyl)methyl]butyl}benzoic acid (25.0 mg, 0.047 mmol) and CDI (26 mg, 0.16 mmol) in DMF (1.0 mL) was stirred at RT for 30 minutes in a sealed tube, then 5-amino-1H-tetrazole (23.0 mg, 0.260 mmol) was added. The mixture was heated at 100° C. for 12 hours, allowed to cool to RT, then diluted with acetonitrile. The mixture was purified by preparative reverse phase HPLC eluting with 47-100% acetonitrile/water+0.1% TFA. Following lyophilization, this afforded the title compound as a white solid. 1H NMR (500 MHz, d6-DMSO) δ 7.98 (br, 1H); 7.91 (d, J=8 Hz, 2H); 7.84 (br, 1H); 7.65 (d, J=8 Hz, 2H); 7.61 (d, J=8 Hz, 2H); 7.39 (d, J=8.5 Hz, 2H); 7.35 (br, 1H); 4.88 (d, J=12 Hz, 1H); 3.79 (t, J=11 Hz, 1H); 2.41 (s, 3H); 1.50-1.52 (m, 1H); 1.23-1.30 (m, 1H); 0.92 (q, J=7 Hz, 2H); 0.68 (t, J=7 Hz, 3H). LC2: 2.70 min. (M+H)+ 594.

reactant | 4-{(1S)-1-[(7-bromo-5-methyl-1-benzothien-3-yl)(4-chlorophenyl)methyl]butyl}benzoic acid | 0.047 mmol, 25.0 mg | BrC1=CC(=CC=2C(=CSC21)C([C@H](CCC)C2=CC=C(C(=O)O)C=C2)C2=CC=C(C=C2)Cl)C | C27H24BrClO2S
reactant | CDI | 0.16 mmol, 26 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-amino-1H-tetrazole | 0.260 mmol, 23.0 mg | NC1=NN=NN1 | CH3N5
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-{(1S)-1-[(7-Bromo-5-methyl-1-benzothien-3-yl)(4-chlorophenyl)methyl]butyl}-N-1H-tetrazol-5-ylbenzamide | BrC1=CC(=CC=2C(=CSC21)C([C@H](CCC)C2=CC=C(C(=O)NC1=NN=NN1)C=C2)C2=CC=C(C=C2)Cl)C | C28H25BrClN5OS
